US06355653B1
3-Phenyl-N-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-propionamide
The title compound, MS m/e (%): 420 (M+H+, 100), was prepared in accordance with the general method of example 31 from 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine and phenylpropionyl chloride.

reactant | 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC=NC=C2)=N1 | C17H13N5
reactant | phenylpropionyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | 3-Phenyl-N-(2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-propionamide | C1(=CC=CC=C1)CCC(=O)NC1=CC(=CC=2N1N=C(N2)C2=CC=CC=C2)C2=CC=NC=C2 | C26H21N5O
